US07691882B2
3-(1-(4-(Pyridin-2-yloxymethyl)-benzyl)-1H-pyrazol-4-yl)-pyridin-2-ylamine
To a solution of 3-(1H-pyrazol-4-yl)-pyridin-2-ylamine (150 mg, 0.94 mmol) described in Manufacturing Example 32-1-4 in N,N-dimethylformamide (10 mL) was added sodium hydride (48.7 mg, 1.22 mmol, 60% in oil) on an ice bath (0° C.) under nitrogen atmosphere. Following 40 minutes of stirring at room temperature, 2-(4-chloromethyl-benzyloxy)-pyridine (228 mg, 0.98 mmol) described in Manufacturing Example 30-1-1 was added and stirred for 30 minutes at room temperature. The reaction mixture was partitioned into water and ethyl acetate at room temperature. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1, then ethyl acetate) to obtain the title compound (307 mg, 92%).

reactant | 3-(1H-pyrazol-4-yl)-pyridin-2-ylamine | 0.94 mmol, 150 mg | N1N=CC(=C1)C=1C(=NC=CC1)N | C8H8N4
reactant | sodium hydride | 1.22 mmol, 48.7 mg | [H-].[Na+]
reactant | 2-(4-chloromethyl-benzyloxy)-pyridine | 0.98 mmol, 228 mg | ClCC1=CC=C(COC2=NC=CC=C2)C=C1 | C13H12ClNO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-(1-(4-(Pyridin-2-yloxymethyl)-benzyl)-1H-pyrazol-4-yl)-pyridin-2-ylamine | 307 mg, 92% | N1=C(C=CC=C1)OCC1=CC=C(CN2N=CC(=C2)C=2C(=NC=CC2)N)C=C1 | C21H19N5O
